US06849639B2
Step B: ethyl 3-{(5-oxo-1-(3-{((N-phenylcarbamoyl)methyl)amino}phenyl)pyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate
To a suspension of ethyl 3-{(1-(3-aminophenyl)-5-oxopyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate (100 mg, 0.25 mmol, 1.1 eq), NaHCO3 (20 mg, 0.23 mmol, 1.0 eq), and CH2Cl2 (4 mL), was added 2-bromo-N-phenyl acetamide (50 mg, 0.23 mmol, 1.0 eq) in 2 mL CH2Cl2 dropwise. The reaction mixture was heated up to reflux for 5 hours, then cooled to room temperature.

reactant | ethyl 3-{(1-(3-aminophenyl)-5-oxopyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate | 0.25 mmol, 100 mg, 1.1 eq | NC=1C=C(C=CC1)N1CC(CC1=O)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C21H24N4O4
reactant | NaHCO3 | 0.23 mmol, 20 mg, 1.0 eq | C(=O)(O)[O-].[Na+]
reactant | 2-bromo-N-phenyl acetamide | 0.23 mmol, 50 mg, 1.0 eq | BrCC(=O)NC1=CC=CC=C1 | C8H8BrNO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-{(5-oxo-1-(3-{((N-phenylcarbamoyl)methyl)amino}phenyl)pyrrolidin-3-yl)carbonylamino}-3-(3-pyridyl)propanoate | O=C1CC(CN1C1=CC(=CC=C1)NCC(NC1=CC=CC=C1)=O)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C29H31N5O5
